US06251925B1
5-(3-Aminophenyl)-2,3-dihydro-7-benzofurancarboxyiic acid methyl ester
5-(3-Nitrophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester (650 mg) and tin(II) chloride (2.3 g) in ethyl acetate (28 mL) were heated at 70° C. for 16 h. The mixture was allowed to cool and poured onto ice. The pH was adjusted to 7-8 by addition of saturated aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, treated with charcoal and dried over sodium sulfate. Filtration and removal of solvent afforded the title compound as an oil (470 mg). Electrospray MS (positive ion): (M+H) 270.4.

reactant | 5-(3-Nitrophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester | 650 mg | COC(=O)C1=CC(=CC=2CCOC21)C2=CC(=CC=C2)[N+](=O)[O-] | C16H13NO5
reactant | tin(II) chloride | 2.3 g | [Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 28 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-Aminophenyl)-2,3-dihydro-7-benzofurancarboxyiic acid methyl ester | 470 mg | COC(=O)C1=CC(=CC=2CCOC21)C2=CC(=CC=C2)N | C16H15NO3
